US07569600B2
To a solution of 5-(4,4-dimethyl-cyclohex-1-enyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (406 mg, 0.83 mmol), i-Pr2EtN (218 μL, 1.25 mmol) and DMAP (15 mg, 0.12 mmol) in dry CH2Cl2 (20 mL) was added chloromethyl methyl ether (95 μL, 1.25 mmol), and the mixture was stirred at room temperature overnight. Then the mixture was diluted with CH2Cl2, washed with brine, organic fraction was dried over Na2SO4, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with 0-30% EtOAc in hexanes to give 286 mg (65%) of 5-(4,4-dimethyl-cyclohex-1-enyl)-3-[(trans-4-methoxymethoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-(4,4-dimethyl-cyclohex-1-enyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.83 mmol, 406 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCC(CC1)(C)C | C28H41NO4S
reactant | i-Pr2EtN | 1.25 mmol, 218 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 1.25 mmol, 95 μL | COCCl | C2H5ClO
catalyst | DMAP | 0.12 mmol, 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-(4,4-dimethyl-cyclohex-1-enyl)-3-[(trans-4-methoxymethoxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 286 mg, 65% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)OCOC)C1=CCC(CC1)(C)C | C30H45NO5S
